US07465838B2
1,3-Dimethyl-2-phenyl-2,3-dihydro-1H-isophosphindole:
Under an atmosphere of nitrogen a Schlenk flask was charged with diethylamine (0.584 g, 8 mmol), to which a solution of n-BuLi (2.5 ml 1.6 N-solution in hexanes, 4 mmol) was added drop wise under efficient stirring. To the slightly hazy solution was then added phenyl phosphine (0.110 g, 1 mmol) which led to the formation of a yellow solution. This mixture was diluted with THF (2 ml), and immediately afterwards was added under efficient stirring a solution of diphenyl-phosphinic acid 1-{2-[1-(diphenyl-phosphinoyloxy)-ethyl]-phenyl}-ethyl ester (0.567 g, 1 mmol) in THF (made up to 2 ml total volume) drop wise over two minutes into the Schlenk flask. When the addition was complete, the mixture was stirred for another ten minutes. To the mixture was then added water (3 ml), sodium hydroxide (1 ml 40% solution in water), and TBME (15 ml). The mixture was stirred for 10 minutes, by which time two clear layers had formed. The aqueous layer was removed via syringe, and the organic layer was dried (Na2SO4). Removal of the solvent in vacuum left the product as colourless oil. 1H/13C-NMR (CDCl3, 300 MHz, HSQC/HMBC, indices A/B relate to syn/anti to P-lone pair) δ/δ 1.21 (dd, J=7.3 Hz, J=11.2 Hz)/14.45 (s) (B-CH3); 1.62 (dd, J=7.7 Hz, J=18.6 Hz)/21.73 (d, J=29.9 Hz) (A-CH3); 3.59 (dq, J=16.6 Hz)/40.04 (d, J=8.5 Hz) (A CHMe); 3.77 (dq, J=2.3 Hz)/35.57 (d, J=13.5 Hz) (B CHMe); 7.17 (m)/125.27 (d, J=1.1 Hz) (A Ar ortho-CH); 7.26 (m)/126.88, 7.26/127.22 (2 Ar meta-CH); 7.36 (m)/125.60 (d, J=1.3 Hz) (B Ar ortho-CH); 7.21 (m)/128.15 (d, J=7.2 Hz) (Ph meta-CH); 7.27 (m)/129.26 (d, J=1.0 Hz) (Ph para-Ch); 7.27 (m)/133.81 (d, J=19.8 Hz) (Ph ortho-CH); 135.90 (d, J=22.1 Hz) (Ph ipso-C); 145.09 (d, J=3.8 Hz) (B Ar ipso-C); 149.04 (d, J=2.3 Hz) (A Ar ipso-C). 31P-NMR δ 22.14.

reactant | diethylamine | 8 mmol, 0.584 g | C(C)NCC | C4H11N
reactant | n-BuLi | 4 mmol, 1.6 N, 2.5 ml | [Li]CCCC
reactant | phenyl phosphine | 1 mmol, 0.110 g | C1(=CC=CC=C1)P | C6H7P
reactant | diphenyl-phosphinic acid 1-{2-[1-(diphenyl-phosphinoyloxy)-ethyl]-phenyl}-ethyl ester | 1 mmol, 0.567 g | C1(=CC=CC=C1)P(=O)(OC(C)C1=C(C=CC=C1)C(C)OP(=O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C34H32O4P2
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | TBME | 15 ml | CC(C)(C)OC | C5H12O
solvent | water | 3 ml | O | H2O
product | 1,3-Dimethyl-2-phenyl-2,3-dihydro-1H-isophosphindole | CC1P(C(C2=CC=CC=C12)C)C1=CC=CC=C1 | C16H17P
